US08648099B2
a) [3-(t-Butyl-dimethyl-silanyloxy)-azetidin-1-yl]-carbamic acid t-butyl ester
3-[[(1,1-Dimethylethyl)dimethylsilyl]oxy]-azetidine (300 mg, 1.6 mmol) was combined with dichloromethane (16 mL) to give a brown solution. N,N-Diisopropylethylamine (455 mg, 615 μl, 3.52 mmol) was added at 0° C. Subsequently 3-(4-cyanophenyl)-2-oxaziridinecarboxylic acid 1,1-dimethylethyl ester (355 mg, 1.44 mmol) in dichloromethane (10 mL) was added during 25 min at 0° C. and the reaction mixture was stirred for 1 h at 0° C. Afterwards the reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography (silica gel, 20 g, 0% to 40% ethyl acetate in n-heptane) to deliver an oil contaminated with 4-cyano-benzaldehyde. This material was purified by a second chromatography (aminophase 12 g, ethyl acetate/n-heptane 1/1) to give the title compound (320 mg, 67%) as white waxy solid; GC-MS (EI) 302.0 (M)+.

reactant | 3-[[(1,1-Dimethylethyl)dimethylsilyl]oxy]-azetidine | 1.6 mmol, 300 mg | CC(C)(C)[Si](OC1CNC1)(C)C | C9H21NOSi
reactant | N,N-Diisopropylethylamine | 3.52 mmol, 615 μl, 455 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(4-cyanophenyl)-2-oxaziridinecarboxylic acid 1,1-dimethylethyl ester | 1.44 mmol, 355 mg | CC(C)(C)OC(=O)N1OC1C1=CC=C(C=C1)C#N | C13H14N2O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 16 mL | ClCCl | CH2Cl2
product | [3-(t-Butyl-dimethyl-silanyloxy)-azetidin-1-yl]-carbamic acid t-butyl ester | 320 mg, 67% | C(C)(C)(C)OC(NN1CC(C1)O[Si](C)(C)C(C)(C)C)=O | C14H30N2O3Si
